US05948786
Synthesis of 2-amino-4-(1-benzoyl-4-piperidinyl)quinazoline
The titled compound was prepared by warming a mixture of 1-benzoyl-4-(2-aminobenzoyl)piperidine hydrochloride (17 g, 0.049 mol) and cyanamide (4.12 g, 0.098 mol). At about 50° C., vigorous exothermic reaction occurred. After the reaction was finished, the reaction mixture was cooled, water was added to the reaction mixture, and then added sodium hydrogencarbonate to make the mixture basic. The mixture was then extracted with dichloromethane. The organic layer was washed with aqueous solution of saturated sodium chloride, and then dried over sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the titled compound (15.9 g) as a foam.

reactant | 1-benzoyl-4-(2-aminobenzoyl)piperidine hydrochloride | 0.049 mol, 17 g | Cl.C(C1=CC=CC=C1)(=O)N1CCC(CC1)C(C1=C(C=CC=C1)N)=O
reactant | cyanamide | 0.098 mol, 4.12 g | N#CN | CH2N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-amino-4-(1-benzoyl-4-piperidinyl)quinazoline | 15.9 g | NC1=NC2=CC=CC=C2C(=N1)C1CCN(CC1)C(C1=CC=CC=C1)=O | C20H20N4O
